US08183380B2
Step C: rac-4-(2-Methoxy-ethoxy)-2,3-dihydro-benzofuran-3-ylamine:
A mixture of the above described 4-(2-methoxy-ethoxy)-benzofuran-3-one oxime (1.19 g, 5 mmol) in methanol (100 mL) and tetrahydrofuran (100 mL) with 10% palladium on carbon (1.42 g) was hydrogenated at 23° C. and atmospheric pressure for 5 days. Filtered the catalyst off, washed with tetrahydrofuran, evaporated the filtrate totally and dried in high vacuum to give the title compound as a red oil (1.15 g, 90%, ca. 90% purity, contains residual starting material); MS: m/e=193.1 (M−NH2+H+).

reactant | 4-(2-methoxy-ethoxy)-benzofuran-3-one oxime | 5 mmol, 1.19 g | COCCOC1=CC=CC2=C1C(CO2)=NO | C11H13NO4
solvent | methanol | 100 mL | CO | CH4O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 1.42 g | [Pd] | Pd
product | rac-4-(2-Methoxy-ethoxy)-2,3-dihydro-benzofuran-3-ylamine | 1.15 g | COCCOC1=CC=CC2=C1C(CO2)N | C11H15NO3
